US04800212
Trans-1-(2-oxo-pyrrolidinyl)-3,3-dimethyl-7-cyano-1,2,3,4-tetrahydro-2-naphthol
A solution of trans-1-amino-3,3-dimethyl-7-cyano-1,2,3,4-tetrahydro-2-napthol (0.5 g), triethylamine (0.5 ml) and 4-chlorobutyrylchloride (0.33 g) in dichloromethane (35 ml) was stirred at room temperature for 1 h. The solution was poured into dilute hydrochloric acid, and the organic layer separated and washed with sodium carbonate solution and dried over magnesium sulphate. Removal of drying agent and solvent gave the crude amide (0.8 g), which was not purified further, but dissolved in dry tetrahydrofuran (60 ml) and sodium hydride (75 mg of 80% dispersion in oil) added portionwise, under nitrogen. The mixture was then stirred at room temperature for 1.5 h, then poured into water and extracted into ethyl acetate. The organic extracts were washed with brine and dried over magnesium sulphate. Removal of drying agent and solvent, followed by crystallisation of the residue from ethyl acetate: 60°-80° petrol (1:1) gave the title compound as colourless microcrystals (0.35 g) having m.p. 203°-4° C.

reactant | trans-1-amino-3,3-dimethyl-7-cyano-1,2,3,4-tetrahydro-2-napthol | 0.5 g | N[C@H]1[C@@H](C(CC2=CC=C(C=C12)C#N)(C)C)O | C13H16N2O
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobutyrylchloride | 0.33 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | Trans-1-(2-oxo-pyrrolidinyl)-3,3-dimethyl-7-cyano-1,2,3,4-tetrahydro-2-naphthol | O=C1N(CCC1)[C@H]1[C@@H](C(CC2=CC=C(C=C12)C#N)(C)C)O | C17H20N2O2
